* C:\Users\fschneider\Dropbox\GitHub\circuits-tone-generator\CurrentStarvedInverter.asc
XU1 Vout Vin P001 nmos3
XU2 P001 Vb 0 nmos3
XU3 Vout Vin P002 pmos3
XU4 P002 N001 P003 pmos3
XU5 N001 N001 P004 pmos3
XU6 N001 Vb 0 nmos3
XU7 P004 vdd
XU8 P003 vdd
Vb Vb 0 0.35
Vdd P005 0 5
XU9 P005 vdd
Vin Vin 0 PULSE(0 5 0 1p 1p 1m 2m 5)
.include engr2420.sub
.tran 0 10m 0 100u
.backanno
.end
